US04743692
N-[4-(5-bromo-3-methyl-2-pyridinyl)butyl]-5-chloro-1,2-benzisothiazol-3-amine 1,1-dioxide
To a refluxing solution of 4-(5-bromo-3-methyl-2-pyridinyl)butylamine (300 mg, 1.23 mmol) in chloroform (20 ml, purified as in previous example) was added over 10 minutes a solution of 3,5-dichloro-1,2-benzisothiazole 1,1-dioxide (U.S. Pat. No. 4,490,527) (400 mg, 1.69 mmol) in chloroform (20 ml)/acetonitrile (10 ml). Since a precipitate formed during the addition, another 10 ml of acetonitrile was added to give almost complete solution. Heating at 65°-70° C. was continued for 60 minutes giving a slightly cloudy mixture. Cooling to room temperature, filtration and evaporation of the filtrate in vacuo gave a solid residue. Recrystallization from methanol/methylene chloride/2-propanol gave 0.410 g of the title compound as an off-white solid hydrochloride: m.p. 231°-235° C., IR(KBr) 3005, 2500 (broad), 1620, 1278, 1160 cm-1. 1H NMR (Me2SO-d6) 9.87 (1H, t), 8.68 (1H, s), 8.60 (1H, s), 8.25 (1H, s), 7.90 (2H, m), 3.42 (2H, m), 2.83 (2H, m), 2.37 (3H, s), 1.68 (4H, m).

reactant | 4-(5-bromo-3-methyl-2-pyridinyl)butylamine | 1.23 mmol, 300 mg | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 3,5-dichloro-1,2-benzisothiazole 1,1-dioxide | ClC1=NS(C2=C1C=C(C=C2)Cl)(=O)=O | C7H3Cl2NO2S
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(5-bromo-3-methyl-2-pyridinyl)butyl]-5-chloro-1,2-benzisothiazol-3-amine 1,1-dioxide | 0.410 g | BrC=1C=C(C(=NC1)CCCCNC1=NS(C2=C1C=C(C=C2)Cl)(=O)=O)C | C17H17BrClN3O2S
